* File: OAI22.pex.sp.pex
* Created: Sun May 11 15:40:51 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_OAI22%NET3 1 2 4 11 13 14 18 19 20 25
c45 20 0 9.64544e-20
c46 19 0 3.75157e-19
c47 4 0 0.00321082f
c48 2 0 0.00106444f
c49 1 0 0.00475238f
r50 23 25 0.413865
r51 21 22 0.127301
r52 20 21 0.459527
r53 19 23 0.0489649
r54 19 22 0.343916
r55 16 20 0.0489649
r56 16 18 0.43621
r57 15 18 0.536276
r58 13 15 0.0489649
r59 13 14 0.817044
r60 10 11 0.429352
r61 8 14 0.0489649
r62 8 11 0.184588
r63 4 25 10
r64 2 18 10
r65 1 10 10
.ends

.subckt PM_OAI22%OUT 1 5 10 15 16 19 23 27 29 30
c70 27 0 3.4081e-20
c71 23 0 1.83575e-20
c72 15 0 9.64544e-20
c73 5 0 0.0013755f
r74 30 34 0.151232
r75 27 34 1.7
r76 25 27 0.33323
r77 24 29 0.0371092
r78 23 25 0.0489649
r79 23 24 0.505188
r80 19 21 0.39152
r81 17 29 0.00964403
r82 17 19 0.777212
r83 15 29 0.0371092
r84 15 16 0.56445
r85 13 14 0.420798
r86 12 13 1.02592
r87 10 12 0.315938
r88 8 16 0.0489649
r89 8 14 0.218591
r90 5 10 10
r91 1 21 15
r92 1 19 10
.ends

.subckt PM_OAI22%VSS 2 12 15 16 23 27
c43 12 0 0.00121431f
c44 2 0 0.00114689f
r45 21 27 0.0188364
r46 21 23 1.13473
r47 16 27 0.0271748
r48 16 20 0.490085
r49 15 20 0.175904
r50 12 23 10
r51 2 20 30
.ends

.subckt PM_OAI22%VDD 2 11 12 17 22 26 33
c39 33 0 0.0235164f
c40 22 0 0.0247823f
c41 2 0 1.11237e-19
r42 33 36 0.39152
r43 31 40 0.016797
r44 31 36 1.28143
r45 27 39 0.0291575
r46 27 29 0.325457
r47 26 40 0.0291575
r48 22 25 0.39152
r49 20 39 0.016797
r50 20 25 1.28143
r51 17 26 1.47476
r52 17 29 0.113667
r53 12 36 15
r54 12 33 10
r55 11 25 15
r56 11 22 10
r57 2 29 30
.ends

.subckt PM_OAI22%A 1 2 6 14 15 18 23
c30 23 0 8.75656e-20
c31 18 0 1.08938e-19
c32 14 0 3.60811e-19
r33 23 27 0.155553
r34 18 27 1.7
r35 18 21 0.00502177
r36 14 21 25
r37 14 16 7.63996
r38 14 15 7.72066
r39 6 16 81.4299
r40 4 15 107.206
r41 2 6 46.5732
r42 1 4 27.3386
.ends

.subckt PM_OAI22%B 1 2 6 14 15 18 23
c48 18 0 2.33342e-19
c49 14 0 1.39964e-19
c50 6 0 1.99217e-19
r51 23 27 0.155553
r52 18 27 1.7
r53 18 21 0.00502177
r54 14 21 25
r55 14 16 7.68747
r56 14 15 7.75285
r57 6 16 81.4299
r58 4 15 107.206
r59 2 6 46.5732
r60 1 4 27.3386
.ends

.subckt PM_OAI22%D 1 2 6 14 15 18 23
c52 23 0 1.99217e-19
c53 18 0 5.28967e-20
c54 14 0 2.37094e-19
r55 23 27 0.155553
r56 18 27 1.7
r57 18 21 0.00485757
r58 14 21 25
r59 14 16 7.68747
r60 14 15 7.75285
r61 6 16 81.4299
r62 4 15 107.206
r63 2 6 46.5732
r64 1 4 27.3386
.ends

.subckt PM_OAI22%C 1 2 6 10 16 19 24
c33 24 0 1.86581e-19
c34 19 0 2.99561e-19
c35 16 0 4.90444e-19
c36 6 0 1.83398e-19
r37 24 28 0.155553
r38 19 28 1.7
r39 19 22 0.00485757
r40 16 22 25
r41 13 16 5.03553
r42 11 13 5.09837
r43 10 13 5.09837
r44 6 11 81.4299
r45 4 10 107.206
r46 2 6 46.5732
r47 1 4 27.3386
.ends

